US07230098B2
10% NaOH solution (25 mL) was added to N-{4-[6-amino-5-(2-cyano-benzyloxy)-pyridin-3-yl]-phenyl)methanesulfonamide (Example I-135, 650 mg, 1.65 mmol) in ethylene glycol (55 mL). The mixture was heated to reflux and allowed to stir for 24 hr. The reaction was cooled to room temperature. Most of the solvent was evaporated and the mixture was acidified. The precipitated solid was filtered out to afford 2-[2-Amino-5-(4-methanesulfonylamino-phenyl)-pyridin-3-yloxymethyl]-benzoic acid as light brown solid. The filtrate was neutralized and extracted with EtOAc (5×20 mL). The organic layer was combined, dried over MgSO4, and concentrated to yield 2-[2-Amino-5-(4-methanesulfonylamino-phenyl)-pyridin-3-yloxymethyl]-benzamide as an off-white solid.

reactant | NaOH | 25 mL | [OH-].[Na+]
reactant | N-{4-[6-amino-5-(2-cyano-benzyloxy)-pyridin-3-yl]-phenyl)methanesulfonamide | 1.65 mmol, 650 mg | NC1=C(C=C(C=N1)C1=CC=C(C=C1)NS(=O)(=O)C)OCC1=C(C=CC=C1)C#N | C20H18N4O3S
reactant | ethylene glycol | 55 mL | C(CO)O | C2H6O2
product | 2-[2-Amino-5-(4-methanesulfonylamino-phenyl)-pyridin-3-yloxymethyl]-benzoic acid | NC1=NC=C(C=C1OCC1=C(C(=O)O)C=CC=C1)C1=CC=C(C=C1)NS(=O)(=O)C | C20H19N3O5S
